US08377957B2
1-Benzyl-1H-imidazo[4,5-c]quinoline-2-thiol (4.15 g, 14.2 mmol), deionized water (35 mL), ethanol (35 mL), and aqueous ammonium hydroxide (3.2 mL) were combined, and iodomethane (1.06 mL, 17.0 mmol) was added. The reaction was stirred at room temperature for one hour, and a precipitate formed. The precipitate was collected by filtration, washed with diethyl ether (5×100 mL), and dried under vacuum to provide 1-benzyl-2-(methylthio)-1H-imidazo[4,5-c]quinoline.

reactant | 1-Benzyl-1H-imidazo[4,5-c]quinoline-2-thiol | 14.2 mmol, 4.15 g | C(C1=CC=CC=C1)N1C(=NC=2C=NC=3C=CC=CC3C21)S | C17H13N3S
reactant | water | 35 mL | O | H2O
reactant | ammonium hydroxide | 3.2 mL | [OH-].[NH4+]
reactant | iodomethane | 17.0 mmol, 1.06 mL | IC | CH3I
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 1-benzyl-2-(methylthio)-1H-imidazo[4,5-c]quinoline | C(C1=CC=CC=C1)N1C(=NC=2C=NC=3C=CC=CC3C21)SC | C18H15N3S
